US08975282B2
N-(3-fluoro-4-((2-(3-(2-hydroxypropyl)-3-methylureido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
A mixture of phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)pyridin-2-yl)carbamate (100 mg, 0.18 mmol), NMP (5 mL) and 1-aminopropan-2-ol (16 mg, 0.2 mmol) was heated at 40° C. for 2 hours. The solvent was evaporated under reduced pressure at 40° C., and then diluted with EtOAc (20 mL). The precipate was collected by filtration to give the title compound as a white solid (58 mg, 60%).

reactant | phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)pyridin-2-yl)carbamate | 0.18 mmol, 100 mg | CN1N(C(C(=C1C)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)NC(OC2=CC=CC=C2)=O)C=C1)F)=O)C1=CC=CC=C1 | C30H24FN5O5
reactant | 1-aminopropan-2-ol | 0.2 mmol, 16 mg | NCC(C)O | C3H9NO
reactant | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | N-(3-fluoro-4-((2-(3-(2-hydroxypropyl)-3-methylureido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 58 mg, 60% | FC=1C=C(C=CC1OC1=CC(=NC=C1)NC(=O)N(C)CC(C)O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C28H29FN6O5
